US06361717B1
3,3′-Dibromo-2,2′-bithiophene
A mixture of 3,3′,5,5′-tetrabromo-2,2′-bithiophene (25 g, 52.3 mmol), ethanol (50 ml), water (50 ml) and glacial acetic acid (100 ml) was heated to reflux. Then the heating oil bath was removed, and zinc powder (13.1 g, 200 mmol) was added in portions at such a rate that the mixture continued to reflux. After the addition was complete, heating was continued, the mixture was refluxed for another 5 h and cooled down to room temperature. The unreacted zinc powder was filtered off and the filtrate was collected, diluted with diethyl ether and then washed twice with water. The ether solution was dried with anhydrous MgSO4 and the solvent was evaporated under reduced pressure. The crude product was recrystallized from hexane to afford a greenish crystal in the yield of 91% (15.3 g). 1H-NMR (CDCl3, ppm): δ7.40 (d, 2H, J=5 Hz), 7.11 (d, 2H, J=5 Hz).

reactant | 3,3′,5,5′-tetrabromo-2,2′-bithiophene | 52.3 mmol, 25 g | BrC1=C(SC(=C1)Br)C=1SC(=CC1Br)Br | C8H2Br4S2
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | water | 50 ml | O | H2O
catalyst | zinc | 200 mmol, 13.1 g | [Zn] | Zn
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 3,3′-Dibromo-2,2′-bithiophene | yield of 91% | BrC1=C(SC=C1)C=1SC=CC1Br | C8H4Br2S2
